### ISSUE TITLE
`to_additive` unable to translate `toOneHomClass`

### ISSUE THREAD

**Issue by winstonyin** [leanprover-community/mathlib4#660]
See PR #659, in `Algebra.Hom.Group`, around theorem `MonoidHom.coe_coe`. If the quickfix
```
attribute [to_additive AddMonoidHomClass.toZeroHomClass] MonoidHomClass.toOneHomClass
```
is removed, the `to_additive` tactic seems to be looking for `AddMonoidHomClass.toOneHomClass`, when it should look for `AddMonoidHomClass.toZeroHomClass`. It has no trouble translating `OneHomClass` to `ZeroHomClass`, but has trouble with `toOneHomClass`.

**Comment by joneugster** [comment]
I'll look into that tonight :)

**Comment by joneugster** [comment]
Looks like `to_additive` always has problems if a class extends 2+ other classes. The relevant TODO is this here:

https://github.com/leanprover-community/mathlib4/blob/085e7ab46bbf282a3911e738f2407e2aef50e22c/Mathlib/Tactic/ToAdditive.lean#L590-L600

<details>
<summary>MWE</summary>

```
-- First, all the additive versions
class ZeroA (A : Type _) where
  zero : ℕ
  zero_add : zero + zero = zero

class ZeroB (A : Type _) extends ZeroA A where
  zero_sub : zero - zero = 0

class ZeroC (A : Type _) extends ZeroA A where
  zero_refl : zero = zero

class ZeroD (A : Type _) extends ZeroB A, ZeroC A

-- Now all the multiplicative versions
@[to_additive]
class OneA (A : Type _) where
  one : ℕ
  one_mul : one * one = one

@[to_additive]
class OneB (A : Type _) extends OneA A where
  one_sub : one - one = 0

@[to_additive]
class OneC (A : Type _) extends OneA A where
  one_refl : one = one

@[to_additive]
class OneD (A : Type _) extends OneB A, OneC A

-- check `to_additive` deals properly with all extensions.
@[to_additive]
lemma one_mul_test_one {A : Type _} [x : OneD A] : true := by
  have := x.toOneA
  have := x.toOneC
  have := x.toOneB
  trivial
```

Error: `(kernel) unknown constant 'Test.ZeroD.toOneC'`

(Because it fails to translate `OneD.toOneC` to `ZeroD.toZeroC`)

</details>

Unfortunately I don't know how to fix this just now, maybe somebody else does.

**Comment by fpvandoorn** [comment]
That todo is not quite the right one. It is for translating constructors, like `AddMonoidHomClass.mk`. However, this is not actually necessary: the implementation will do fine without these translations.

@digama0: Am I correct that the environment does not contain information about which structures a given structure `extends`? What is the best way forward? The `@[ancestor]` hack from Lean 3? Make a Core PR that records this information?

**Comment by digama0** [comment]
When I removed the `ancestor` attribute from mathport, my understanding was that this information either already exists or would be stored by lean to avoid the need for duplicating the information. (That said I haven't looked at it in detail and a core PR may be needed.)

**Comment by fpvandoorn** [comment]
I created a RFC for a core PR at leanprover/lean4#1881
